US06528525B1
(d) Ethyl 3-(4-hydroxyphenyl)-2-propylpropionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)-2-propylpropionate (4.00 g) and palladium on carbon (5%, 0.40 g) and the reaction mixture was treated to afford the desired compound (3.10 g) as a syrup.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-propylpropionate | 4.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)CCC | C21H26O3
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
product | Ethyl 3-(4-hydroxyphenyl)-2-propylpropionate | 3.10 g | OC1=CC=C(C=C1)CC(C(=O)OCC)CCC | C14H20O3
